US06093732
3-(3-([(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl methanesulfonate
To a solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide from Example No. 110 (0.13 g) in 10 mL DMF is added NEt3 (0.05 mL) and a spatula tip of DMAP. Methanesulfonyl chloride (0.030 mL) is added dropwise and the reaction is allowed to stir at room temperature overnight. The reaction is partitioned between EtOAc and H2O. The aqueous layer is extracted 3× with EtOAc. The organics are combined, dried over MgSO4, filtered, and concentrated under reduced pressure to give a yellow liquid. The residue is dissolved in CH2Cl2, adsorbed onto silica and chromatographed on a Biotage Flash 40S column (eluent 1% MeOH:CH2Cl2 (1 L) followed by 3% MeOH:CH2Cl2 (2 L)) to afford the desired product as a white solid which is further purified by recrystallization with CH2Cl2 /hexanes. (0.045 g, 0.097 mmol, 29%).

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxypropyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCCO)F)C=C1 | C20H18ClFN2O3
reactant | NEt3 | 0.05 mL | CCN(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.030 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(3-([(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)propyl methanesulfonate | CS(=O)(=O)OCCCC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C21H20ClFN2O5S
